US08609676B2
A degassed solution of 2-methyl-4-nitrobenzonitrile (10 g, 61.7 mmol), N-bromosuccinimide (13.2 g (74.17 mmol, 1.2 eq.) and azobisisobutyronitrile (AlBN) (2.0 g, 12.18 mmol, 0.2 eq) in 300 ml CCl4 was heated at reflux for 3 days. After solvent was evaporated the residue was taken in ethyl acetate and washed 2× with aq. NaHCO3, aq. Na2S2O3, brine, dried over MgSO4, filtered, concentrated and purified chromatography using 15% ethyl acetate in hexane to provide 11.7 g of 2-bromomethyl-4-nitrobenzonitrile.

reactant | 2-methyl-4-nitrobenzonitrile | 61.7 mmol, 10 g | CC1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C8H6N2O2
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 12.18 mmol, 2.0 g, 0.2 eq | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | CCl4 | 300 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromomethyl-4-nitrobenzonitrile | 11.7 g | BrCC1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C8H5BrN2O2
